US03940395
A mixture of 3.0 g. of the above prepared 4-chloro-6-(4-methyl-1-piperazinyl)-2-phenylpyrimidine and 10 ml. of thiophenol is heated under reflux for three hours and then poured into 300 ml. of water. The reaction mixture is basified with 40°/o sodium hydroxide solution. The product which is deposited crystallizes on cooling to afford 3.5 g. of product. Recrystallization from n-heptane affords 4-(4-methyl-1-piperazinyl)-2-phenyl-6-phenylthiopyrimidine, m.p. 125°-128°C.

reactant | 4-chloro-6-(4-methyl-1-piperazinyl)-2-phenylpyrimidine | ClC1=NC(=NC(=C1)N1CCN(CC1)C)C1=CC=CC=C1 | C15H17ClN4
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 4-(4-methyl-1-piperazinyl)-2-phenyl-6-phenylthiopyrimidine | CN1CCN(CC1)C1=NC(=NC(=C1)SC1=CC=CC=C1)C1=CC=CC=C1 | C21H22N4S
